US08686022B2
4-sec-butyl-anisol
2 g 4-sec-butyl-phenol are dissolved in 15 ml N,N-dimethylformamide, combined with 2.2 g potassium carbonate, stirred for 30 minutes and then combined with 830 μl methyl iodide. The mixture is stirred for 12 hours and then a further 600 mg potassium carbonate and 300 μl methyl iodide are added. After stirring for 3 hours the mixture is divided between water and ethyl acetate and the organic phase is washed with saturated aqueous sodium chloride solution. It is dried with magnesium sulphate and the solvents are eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | 4-sec-butyl-phenol | 2 g | C(C)(CC)C1=CC=C(C=C1)O | C10H14O
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 830 μl | CI | CH3I
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 300 μl | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-sec-butyl-anisol | C(C)(CC)C1=CC=C(C=C1)OC | C11H16O
